US06881733B1
A mixture of 10.14 gm (46.66 mMol) 1-benzyl-3,3-dimethyl-4-oxopiperidine, 1.03 gm 10% palladium on carbon, and 11.09 gm (50.81 mMol) di-tert-butyl dicarbonate in 210 mL methanol was purged 3 times with nitrogen and 3 times with hydrogen. The mixture was placed under 50 psig of hydrogen and was shaken at room temperature for 16 hours. The reaction mixture was filtered through a bed of celite and glass microfiber paper. The filtrate was concentrated under reduced pressure and the residue subjected to silica gel chromatography, eluting with hexanes containing 20% ethyl acetate. Fractions containing the product were combined and concentrated under reduced pressure to provide 9.38 gm (88.5%) of 1-(tert-butoxycarbonyl)-3,3-dimethyl-4-oxopiperidine.

reactant | 1-benzyl-3,3-dimethyl-4-oxopiperidine | 46.66 mMol, 10.14 gm | C(C1=CC=CC=C1)N1CC(C(CC1)=O)(C)C | C14H19NO
reactant | di-tert-butyl dicarbonate | 50.81 mMol, 11.09 gm | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | palladium on carbon | 1.03 gm | [Pd] | Pd
solvent | methanol | 210 mL | CO | CH4O
product | 1-(tert-butoxycarbonyl)-3,3-dimethyl-4-oxopiperidine | 9.38 gm, 88.5% | C(C)(C)(C)OC(=O)N1CC(C(CC1)=O)(C)C | C12H21NO3
